US04885367
In 20 ml of acetic acid was dissolved 1.5 g of N-[2-(cyclohexylthio)phenyl]ethanesulfonamide, 0.33 g of 61% nitric acid was added dropwise on heating at 80°-85° C., and then the mixture was stirred on heating for 1 hour. The reaction solution was poured into ice water, neutralized with a saturated sodium hydrogen carbonate solution and extracted with dichloromethane. The dichloromethane layer was washed, in turn, with a saturated aqueous sodium hydrogen carbonate solution, water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting crude crystals were purified by silica gel column chromatography (eluent: n-hexane:dichloromethane:ethyl acetate=20:10:1) and recrystallized from carbon tetrachloride-n-hexane to give 1.1 g of N-(2-cyclohexylthio-4-nitrophenyl)ethanesulfonamide.

reactant | N-[2-(cyclohexylthio)phenyl]ethanesulfonamide | 1.5 g | C1(CCCCC1)SC1=C(C=CC=C1)NS(=O)(=O)CC | C14H21NO2S2
reactant | nitric acid | 0.33 g | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-(2-cyclohexylthio-4-nitrophenyl)ethanesulfonamide | 1.1 g | C1(CCCCC1)SC1=C(C=CC(=C1)[N+](=O)[O-])NS(=O)(=O)CC | C14H20N2O4S2
